US07517889B2
5-(Dihydroxyboryl)-2-thiophenecarboxylic acid (527 mg, 3.1 mmol) and 2,2-dimethyl-propane-1,3-diol (361 mg, 3.4 mmol) are stirred in THF (10 mL) for 19 hours and concentrated in vacuo to afford 5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-thiophene-2-carboxylic acid (748 mg) as a solid. LCMS: RT=1.15 minutes; 1H NMR [300 MHz, (CD3)2SO]: □13.15 (1H, s); 7.7 (1H, m); 7.45 (1H, m); 3.75 (4H, s); 0.95 (6H, s).

reactant | 5-(Dihydroxyboryl)-2-thiophenecarboxylic acid | 3.1 mmol, 527 mg | OB(C1=CC=C(S1)C(=O)O)O | C5H5BO4S
reactant | 2,2-dimethyl-propane-1,3-diol | 3.4 mmol, 361 mg | CC(CO)(CO)C | C5H12O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-thiophene-2-carboxylic acid | 748 mg | CC1(COB(OC1)C1=CC=C(S1)C(=O)O)C | C10H13BO4S
